US04631081
2-Chloro-3-cyano-4,6-dimethylpyridine was prepared from 3-cyano-4,6-dimethylpyrid-2-one and phosphorus oxychloride following the procedure of Kametani and Sato (Yakugaka Kenyu 34, 117, 1962).

reactant | 3-cyano-4,6-dimethylpyrid-2-one | C(#N)C=1C(NC(=CC1C)C)=O | C8H8N2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-cyano-4,6-dimethylpyridine | ClC1=NC(=CC(=C1C#N)C)C | C8H7ClN2
